data/mechanism_extracts/GreenChem/10.1039_D5GC01259G.json
{"doi": "10.1039_D5GC01259G", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical vicinal amidoselenation of unactivated aliphatic alkenes with diaryl diselenides and acetonitrile via a tandem radical selenation/oxidative Ritter reaction", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide to a diselenide radical cation that fragments to PhSe+ and PhSe•; the alkyl radical formed after PhSe• addition to the alkene is further oxidized at the anode to a selenonium cation, while protons are reduced at the cathode to H2", "key_intermediates": [{"name": "diphenyl diselenide radical cation", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenium cation (PhSe+)", "smiles": null, "role": "reactive"}, {"name": "phenylseleno-substituted cyclohexyl radical (A)", "smiles": "[CH]1CCCCC1[Se]c1ccccc1", "role": "reactive"}, {"name": "cyclohexyl selenonium cation (B)", "smiles": null, "role": "reactive"}, {"name": "nitrilium ion intermediate (C)", "smiles": null, "role": "reactive"}, {"name": "water-trapped nitrilium / hydroxyl iminium (D, IM4/IM5)", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, Ph2Se2 is oxidized to its radical cation which fragments into PhSe+ and PhSe•; PhSe• adds to cyclohexene to give a β-selenoalkyl radical, which is then oxidized at the anode to a selenonium cation. Acetonitrile attacks this cation to form a nitrilium ion that is trapped by water, deprotonates/isomerizes to the amide product, while H+ is reduced to H2 at the cathode.", "rate_determining_step": "Nucleophilic attack of acetonitrile on the selenonium ion (TS4, ΔG‡ ≈ 21.12 kcal/mol) is the highest barrier on the productive pathway", "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield suppressed to 55% (2 eq) and 20% (4 eq), indicating radical involvement"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Complete inhibition (trace product) with 2 eq; PhSe-DPE adduct detected by HRMS (m/z 337.0483)"}, {"name": "phenylselenenyl chloride (PhSeCl)", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "No product at 65 °C/5 h without oxidant; only 32% with (NH4)2S2O8; 15% under electrochemical conditions — suggests ionic PhSe+ pathway is inefficient and radical pathway dominates"}, {"name": "D2O / anhydrous conditions", "smiles": null, "purpose": "isotope_label", "observation": "Under dry MeCN/N2 only 43% yield obtained, confirming water is the oxygen source for the amide group"}, {"name": "selenonium cation 4a and PhSe-DPE adduct 4b", "smiles": null, "purpose": "intermediate_trap", "observation": "Both detected by HRMS (239.0332 and 337.0483), confirming selenonium and selenyl radical intermediates"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Cyclohexene is not oxidizable; Ph2Se2 shows Eox = 1.70 V; with TsOH the second oxidation peak of the mixture shifts from 2.36 to 2.10 V, showing acid promotes the electrochemical step"}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "DFT", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Authors explicitly rule out a purely ionic PhSe+ pathway (no reaction with PhSeCl alone) in favor of a radical addition by PhSe• followed by anodic oxidation to the selenonium cation (radical-polar crossover). DFT shows the singlet selenonium 1IM2 is strongly favored over triplet 3IM2 (−35.93 vs −1.66 kcal/mol). Hydrogen gas at the cathode confirmed by detection experiment. Water (adventitious from solvent/air) is the source of the amide oxygen via Ritter-type trapping."}
